US04846882
A mixture of 0.58 g (0.0029 mole) of 4-chloro-2-fluoro-5-(1-methoxyethyl)aniline, 0.82 g (0.0054 mole) of tetrahydrophthalic anhydride, and 15 ml of acetic acid was refluxed overnight. The acetic acid was then evaporated under reduced pressure, leaving a residue which was dissolved in diethyl ether. This solution was washed successively with water and an aqueous solution of sodium bicarbonate. The solution was dried, filtered, and the solvent was evaporated under reduced pressure leaving a residue. This residue was passed through a silica gel column, eluting with ethyl acetate/heptane (1/4). Appropriate fractions were combined, and the solvent was evaporated under reduced pressure, yielding 0.4 g of N-[4-chloro-2-fluoro-5-(1-methoxyethyl)phenyl]-3,4,5,6-tetrahydrophthalimide as a solid, m.p. 141°-44° C. The nmr and ir spectra were consistent with the proposed structure.

reactant | 4-chloro-2-fluoro-5-(1-methoxyethyl)aniline | 0.0029 mole, 0.58 g | ClC1=CC(=C(N)C=C1C(C)OC)F | C9H11ClFNO
reactant | tetrahydrophthalic anhydride | 0.0054 mole, 0.82 g | C1(C2C(C(=O)O1)CCC=C2)=O | C8H8O3
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[4-chloro-2-fluoro-5-(1-methoxyethyl)phenyl]-3,4,5,6-tetrahydrophthalimide | 0.4 g | ClC1=CC(=C(C=C1C(C)OC)N1C(C2=C(C1=O)CCCC2)=O)F | C17H17ClFNO3
